US08895474B2
4-Bromo-2-iodoethyl benzene (50.0 g, 160.8 mmol) is dissolved in anhydrous tetrahydrofuran (250 ml) and cooled to −70° C. under an atmosphere of nitrogen. Isopropylmagnesium chloride (2M solution in THF, 100 ml, 200 mmol) is added dropwise with vigorous stirring over 40 minutes, maintaining the internal temp below −60° C. by external cooling. When the addition is complete, the reaction is stirred at −70° C. for 20 minutes then allowed to warm to room temperature over 1 h 20 minutes. The reaction mixture is then cooled to −70° C. and a solution of 2-furaldehyde (16 ml, 18.6 g, 190 mmol) in tetrahydrofuran (50 ml) is added dropwise over 40 minutes. On completion of the addition, the reaction is allowed to warm to room temperature and stirred at room temperature for 3 hours. Saturated aqueous ammonium chloride solution (−500 ml) is added and the mixture is extracted into ethyl acetate. The organic solutions are combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is further purified by column chromatography on silica gel to give (5-bromo-2-ethylphenyl)furan-2-ylmethanol (40.7 g).

reactant | 4-Bromo-2-iodoethyl benzene | 160.8 mmol, 50.0 g | BrC1=CC=C(C=C1)CCI | C8H8BrI
reactant | Isopropylmagnesium chloride | 200 mmol, 2M, 100 ml | C(C)(C)[Mg]Cl
reactant | 2-furaldehyde | 190 mmol, 16 ml, 18.6 g | O1C(=CC=C1)C=O | C5H4O2
reactant | ammonium chloride | −500 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (5-bromo-2-ethylphenyl)furan-2-ylmethanol | 40.7 g | BrC=1C=CC(=C(C1)C(O)C=1OC=CC1)CC | C13H13BrO2
